US07192943B2
To a stirred suspension of Dess-Martin reagent (845 mg) in methylene chloride (15 ml) was added tert-butyl [(3S)-3-hydroxy-4-oxo-4-({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)butyl]carbamate (1.5 g) and the mixture was stirred at room temperature for 30 minutes. 1N aqueous sodium hydroxide solution (8 ml) was added to the mixture with stirring for 30 minutes and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave an oil, which was purified by column chromatography on silica gel (ethyl acetate:methylene chloride=1:4) to give tert-butyl [3,4-dioxo-4-({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)butyl]carbamate (1.33 g).

reactant | Dess-Martin reagent | 845 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl [(3S)-3-hydroxy-4-oxo-4-({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)butyl]carbamate | 1.5 g | O[C@@H](CCNC(OC(C)(C)C)=O)C(NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C52H53N5O5
reactant | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl [3,4-dioxo-4-({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)butyl]carbamate | 1.33 g | O=C(CCNC(OC(C)(C)C)=O)C(NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C52H51N5O5
